* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.

*         (c)  2022 Diodes Inc
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
*


*DIODES_INC_SPICE_MODEL
*SIMULATOR=SIMETRIX
*ORIGIN=DZSL_DPG_SU
*DATE=23AUG2013
*VERSION=1

* TVS diode
* 	Terminals: 	A	K
.SUBCKT SMBJ18A  	1	2
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 20
.MODEL DF D ( IS=10f RS=.5 N=1.10 CJO=46.3p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=5f RS=.2 N=1.1 )
.ENDS SMBJ18A

* 	TERMINALS: 	Anode 	Cathode
.SUBCKT	SMBJ18AQ	1	2 
D1 1 2 D1 
R1 1 2 4.174E+09 
.MODEL D1 D (IS = 9.955E-10 N = 1.564 RS = 0.02143 CJO = 1.523E-09 VJ = 0.702 M = 0.3604 FC = 0.5 BV = 19.8 IBV = 4.441E-10 )
.ENDS 	SMBJ18AQ
*Diodes SMBJ18AQ Spice Model v1.0 Last Revised 2019/03/22

* 	Terminals:  	T1 	T2
.SUBCKT SMBJ18CA 	1 	2 
D1 1 3 SMBJ18CA_D
D2 2 3 SMBJ18CA_D
R1 1 2 3.173E9
.MODEL SMBJ18CA_D D(IS=537p N=1.612 RS=45.93m CJO=2.847n M=0.491 VJ=0.585 FC=0.5 BV=20.89 IBV=5m)
.ENDS SMBJ18CA

