* TVS diode

*         (c)  2022 Diodes Inc
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
*


* 	Terminals:  	A	K
.SUBCKT SMBJ18A  	1	2
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 20
.MODEL DF D(IS=10f RS=.5 N=1.10 CJO=46.3p VJ=0.750 M=0.330 TT=50.1n)
.MODEL DR D(IS=5f RS=.2 N=1.1)
.ENDS SMBJ18A

* 	Terminals:  	A 	K
.SUBCKT	SMBJ18AQ	1	2 
D1 1 2 D1 
R1 1 2 4.174E+09 
.MODEL D1 D(IS = 9.955E-10 N = 1.564 RS = 0.02143 CJO = 1.523E-09 VJ = 0.702 M = 0.3604 FC = 0.5 BV = 19.8 IBV = 4.441E-10)
.ENDS 	SMBJ18AQ

* 	Terminals:  	T1 	T2
.SUBCKT SMBJ18CA 	1 	2 
D1 1 3 SMBJ18CA_D
D2 2 3 SMBJ18CA_D
R1 1 2 3.173E9
.MODEL SMBJ18CA_D D(IS=537p N=1.612 RS=45.93m CJO=2.847n M=0.491 VJ=0.585 FC=0.5 BV=20.89 IBV=5m)
.ENDS SMBJ18CA

* 	Terminals:  	A	K
.SUBCKT 30SMCJ22A 	1 	2
D1 2 11  Dmod1
L1 1 11 5E-9
.MODEL Dmod1 D(IS=1E-12 N=1.1 RS=0.01 TRS1=5E-4 CJO=5950E-12 VJ=0.51 M=0.34 BV=25.3 IBV=100E-6 TBV1=8E-4)
.ENDS 30SMCJ22A

* 	Terminals:  	A	K
.SUBCKT DFLT26AQ 	1 	2
D1 1 2 D1
R1 1 2 1878.3meg
.model D1 D(IS=958.5f RS=0.1298 CJO=4000p M=0.6 VJ=0.5 N=1.376 BV=30 IBV=500u TT=40n EG=.84)
.ENDS DFLT26AQ 

* 	Terminals:  	A	K
.SUBCKT SMBJ30AQ 	1 	2 
D1 1 2 D1 
R1 1 2 3.111E+09 
.MODEL D1 D(IS = 2.365E-09 N = 1.711 RS = 0.02362 CJO = 9.348E-10 VJ = 0.5845 M = 0.3388 FC = 0.5 BV = 35.1 IBV = 4.441E-10)
.ENDS SMBJ30AQ

* 	Terminals:  	A	K
.SUBCKT SMAJ30CA 	1 	2
D1 1 3 D_SMAJ30CA
D2 2 3 D_SMAJ30CA
R1 1 2 7.794E+09 
.model D_SMAJ30CA D(IS=658f N=3.688 RS=284.9m CJO=214.3p M=0.244 VJ=0.979 FC=0.5 BV=32.01 IBV=5m) 
.ENDS SMAJ30CA

* 	Terminals:  	A	K
.SUBCKT DFLT33A 	1 	2
D1 1 2 D1
R1 1 2 1878.3meg
.model D1 D(IS=958.5f RS=0.1298 CJO=4000p M=0.6 VJ=0.5 N=1.376 BV=38.30 IBV=500u TT=40n EG=.84)             
.ENDS DFLT33A

* 	Terminals:  	A	K
.SUBCKT DFLT33AQ 	1 	2
D1 1 2 D1
R1 1 2 1878.3meg
.model D1 D(IS=958.5f RS=0.1298 CJO=4000p M=0.6 VJ=0.5 N=1.376 BV=38.30 IBV=500u TT=40n EG=.84)             
.ENDS DFLT33AQ

* 	Terminals:  	A	K
.SUBCKT SMAJ33AQ 	1 	2
D1 1 2 D_SMAJ33AQ
R1 1 2 7.367E+09 
.model D_SMAJ33AQ D(IS=610f N=1.214 RS=46.49m CJO=389.6p  M=0.3 VJ=0.47 FC=0.5 BV=38.8 IBV=5m) 
.ENDS SMAJ33AQ

* 	Terminals:  	A	K
.SUBCKT SMAJ33CA 	1 	2 
D1 1 3 D_SMAJ33CA
D2 2 3 D_SMAJ33CA
R1 1 2 8.872E+09 
.model D_SMAJ33CA D(IS=41.60p N=1.394 RS=12.42m CJO=250.3p  M=0.3 VJ=0.47 FC=0.5 BV=39.02 IBV=1m) 
.ENDS SMAJ33CA

* 	Terminals:  	A	K
.SUBCKT SMAJ33CAQ 	1 	2
D1 1 3 D_SMAJ33CAQ
D2 2 3 D_SMAJ33CAQ
R1 1 2 8.872E+09 
.model D_SMAJ33CAQ D(IS=41.60p N=1.394 RS=12.42m CJO=250.3p  M=0.3 VJ=0.47 FC=0.5 BV=39.02 IBV=1m)
.ENDS SMAJ33CAQ
